US07410963B2
{3-[3-(8-Methoxy-1-methyl-2-oxo-7-phenyl-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-phenyl]-prop-2-ynyl}-carbamic acid tert-butyl ester
Prepared from 5-(3-bromo-phenyl)-8-methoxy-1-methyl-7-phenyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one Example 62 using the same method described for Example 35 using propargyl Boc-amine instead of hex-1-yne. The title compound (51 mg) was obtained as a beige solid, (yield=22%).

reactant | 5-(3-bromo-phenyl)-8-methoxy-1-methyl-7-phenyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one | BrC=1C=C(C=CC1)C=1C2=C(N(C(CN1)=O)C)C=C(C(=C2)C2=CC=CC=C2)OC | C23H19BrN2O2
reactant | propargyl Boc-amine | C(C#C)NC(=O)OC(C)(C)C | C8H13NO2
product | {3-[3-(8-Methoxy-1-methyl-2-oxo-7-phenyl-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-phenyl]-prop-2-ynyl}-carbamic acid tert-butyl ester | 51 mg, yield=22% | C(C)(C)(C)OC(NCC#CC1=CC(=CC=C1)C=1C2=C(N(C(CN1)=O)C)C=C(C(=C2)C2=CC=CC=C2)OC)=O | C31H31N3O4
